US04816587
Preparation of 2-bromolysergol (2-bromo-8-hydroxymethyl-6-methyl-9-ergolene)
2 g of trimethylbromosilane are portionwise added to 20 ml of dimethylsulfoxide and the reaction mixture is stirred at room temperature for 15 minutes, then a solution containing 1 g of lysergol in 15 ml of dimethylsulfoxide is added. After stirring for 20 minutes, the mixture is poured onto 150 ml of ice-water and the pH is adjusted to 8-9 by adding aqueous ammonia. The mixture is extracted 3 times with 30 ml of dichloromethane each. The combined organic phase is washed 3 times with 20 ml of 10% sodium chloride solution each, dried over sodium sulfate, filtered and the filtrate is evaporated under reduced pressure to give the title compound in a yield of 0.8 g (0.00277 mole, 70.5%),

reactant | trimethylbromosilane | 2 g | C[Si](Br)(C)C | C3H9BrSi
reactant | lysergol | 1 g | OC[C@H]1CN(C)[C@@H]2CC3=CNC4=CC=CC(C2=C1)=C34 | C16H18N2O
reactant | ammonia | N | H3N
solvent | dimethylsulfoxide | 15 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
product | 2-bromolysergol | BrC1=C2C[C@H]3N(C[C@H](CO)C=C3C=3C=CC=C(N1)C32)C | C16H17BrN2O
